US09102591B2
2-chloro-3-fluoro-N-(2-phenyl-2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)benzamide
From 2-chloro-3-fluorobenzoic acid and 2-phenyl-2-(6-(trifluoromethyl)pyridin-3-yl)ethanamine. LCMS (N I+): m/z=423.1, tR (minutes, Method D)=0.81

reactant | 2-chloro-3-fluorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1F | C7H4ClFO2
reactant | 2-phenyl-2-(6-(trifluoromethyl)pyridin-3-yl)ethanamine | C1(=CC=CC=C1)C(CN)C=1C=NC(=CC1)C(F)(F)F | C14H13F3N2
product | 2-chloro-3-fluoro-N-(2-phenyl-2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)benzamide | ClC1=C(C(=O)NCC(C=2C=NC(=CC2)C(F)(F)F)C2=CC=CC=C2)C=CC=C1F | C21H15ClF4N2O
